US04297489
7-(α-Amino-4-hydroxyphenylacetamido)-3-(1-carboxymethyltetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid
To a solution of 2.7 g. (0.01 mole) of D-(-)-N-tert-butoxycarbonyl-p-hydroxyphenylglycine in 92 ml. of tetrahydrofuran was added 1.1 g. (0.01 mole) of N-methylmorpholine. The solution was cooled to 0° and 1.4 g. (0.01 mole) of isobutylchloroformate was added all at once. The stirring was continued for 10 minutes and the mixed anhydride solution was added to a 0° solution of 3.7 g. (0.01 mole) of 7-amino-3-(1-carboxymethyltetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid and 1.1 g. (0.01 mole) of N-methylmorpholine in 50 ml. of water. The solution was stirred for 1 hr. and the tetrahydrofuran was evaporated at 30° (15 mm) to a total volume of 45 ml. The solution was lowered to pH 2 with 1:1 phosphoric acid and extracted with ethyl acetate, washed with water and the solvent was azeotroped to a glassy solid at 30° (15 mm). The residue was triturated with ether to remove any starting acid and collected by filtration. This was hydroscopic and was transferred immediately to 5 ml. of trifluoroacetic acid and stirred for 1 hr. at 27°. The solution was diluted with 25 ml. of ether and the product was collected by filtration and suspended in 5 ml. of water. The mixture was adjusted to pH 3 with conc. ammonium hydroxide and diluted with 10 ml. of isopropanol. The light tan solid was collected by filtration and dried in vacuo over P2O5 for 24 hr. to yield 300 mg. 7-(α-amino-4-hydroxyphenylacetamido)-3-(1-carboxymethyltetrazol-5-ylthiomethyl-3-cephem-4-carboxylic acid. M.p. 175° slow decomp. Anal. Calcd. for C19H19N7O7S2 3/4 i-C3H7O: C, 42.78; H, 4.44; N, 17.32. Found: C, 42.86; H, 4.55; N, 15.39. The IR and NMR spectra were consistant for the structure. The NMR spectrum did show the presence of 0.75 mole isopropyl alcohol in the product.

reactant | N-methylmorpholine | 0.01 mole | CN1CCOCC1 | C5H11NO
reactant | isobutylchloroformate | 0.01 mole | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | 7-amino-3-(1-carboxymethyltetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid | 0.01 mole | NC1[C@@H]2N(C(=C(CS2)C(CC(=O)O)SC2=NN=NN2)C(=O)O)C1=O | C11H12N6O5S2
reactant | N-methylmorpholine | 0.01 mole | CN1CCOCC1 | C5H11NO
reactant | 1-carboxymethyltetrazol-5-ylthiomethyl-3-cephem-4-carboxylic acid | C(=O)(O)CS1(CC=C(N2[C@H]1CC2=O)C(=O)O)CSC2=NN=NN2 | C11H13N5O5S2
reactant | isopropyl alcohol | 0.75 mole | C(C)(C)O | C3H8O
solvent | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 7-(α-Amino-4-hydroxyphenylacetamido)-3-(1-carboxymethyltetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid | NC(C(=O)NC1[C@@H]2N(C(=C(CS2)C(CC(=O)O)SC2=NN=NN2)C(=O)O)C1=O)C1=CC=C(C=C1)O | C19H19N7O7S2
